US06492416B1
To a stirred solution of 3-ethyl-1-pentyn-3-ol (7.7 ml) in 300 ml anhydrous THF, was added dropwise 100 ml of 1.4 M methyllithium in hexane at −78° C. under argon. The mixture was further stirred for 30 minutes, followed by dropwise addition of 4-(methylthio)benzaldehyde (9.3 ml). The reaction mixture was stirred for another 12 hours, during which the cold bath was removed such that the reaction temperature reached room temperature slowly. Then the reaction was quenched by adding dilute aqueous HCl. The solvent was removed in vacuo and the resulting residue was extracted with brine and dichloromethane (150 ml×3). The organic layer was concentrated under reduced pressure and the resulting crude product was purified by recrystallization from hexane and ethylacetate (4:1) to give 11.8 g of 4-ethyl-1-{4-(methylthio)phenyl}-2-hexyn-1,4-diol as a low-melting solid. mp: 64-65° C. NMR: δ1.04 (t, J=7.5 Hz, 6H), 1.70 (q, J=7.5 Hz, 4H), 2.49 (s, 3H), 5.47 (s, 1H), 7.26 (d, J=8.4 Hz, 2H), 7.45 (d, J=8.4 Hz, 2H). IR (cm−1): 3368, 2970, 2207, 1637, 1589, 1262, 1093.

reactant | 3-ethyl-1-pentyn-3-ol | 7.7 ml | C(C)C(C#C)(CC)O | C7H12O
reactant | methyllithium | 1.4 M, 100 ml | C[Li]
reactant | 4-(methylthio)benzaldehyde | 9.3 ml | CSC1=CC=C(C=O)C=C1 | C8H8OS
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-ethyl-1-{4-(methylthio)phenyl}-2-hexyn-1,4-diol | 11.8 g | C(C)C(C#CC(O)C1=CC=C(C=C1)SC)(CC)O | C15H20O2S
